US05116841
4,5-dihydro-5-ethyl-3-formyl-4-oxo-imidazo[1,5-a]quinoxaline
In the same manner was prepared 4,5-dihydro-3-formyl-5-isobutyl-4-oxo-imidazo[1,5-a]quinoxaline, m.p. 239°-240° C. from reduction of ethyl 4,5-dihydro-5-isobutyl-4-oxoimidazo[1,5-a]quinoxaline-3-carboxylate. (Compound 20).

reactant | 4,5-dihydro-3-formyl-5-isobutyl-4-oxo-imidazo[1,5-a]quinoxaline | C(=O)C=1N=CN2C1C(N(C1=CC=CC=C21)CC(C)C)=O | C15H15N3O2
reactant | ethyl 4,5-dihydro-5-isobutyl-4-oxoimidazo[1,5-a]quinoxaline-3-carboxylate | C(C(C)C)N1C(C=2N(C3=CC=CC=C13)C=NC2C(=O)OCC)=O | C17H19N3O3
product | 4,5-dihydro-5-ethyl-3-formyl-4-oxo-imidazo[1,5-a]quinoxaline | C(C)N1C(C=2N(C3=CC=CC=C13)C=NC2C=O)=O | C13H11N3O2
